MM8 (net9 net9 VSS VSS) nmos4
MM7 (VOUT1 net9 VSS VSS) nmos4
MM3 (net20 VSS net16 VSS) nmos4
MM0 (net11 net12 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (VOUT1 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (VB1 net1007 VSS VSS) nmos4
MM1 (net1005 VB1 VDD VDD) pmos4
MM0 (VB1 VB1 VDD VDD) pmos4
MM11 (net023 net024 net1007 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (net1007 net1007 VSS VSS) nmos4
MM0 (VB2 net025 VSS VSS) nmos4
MM10 (net024 VB2 VDD VDD) pmos4
MM4 (net010 VB2 VDD VDD) pmos4
MM3 (net1007 VB2 VDD VDD) pmos4
MM1 (VB2 VB2 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor